US07119207B2
6-Methoxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one
In a flame-dried flask under nitrogen, 490 mg of 60% sodium hydride (12.26 mmol) was slurried three times with Hexanes, and the Hexanes were syringed off. Added 6.25 ml of N,N-dimethylformamide, followed by 500 mg of 6-Methoxy-1,3-dihydro-indol-2-one (3.06 mmol) and stirred at room temperature for 5 minutes. Chilled in ice-H2O bath and added 763 μl of methyl iodide (12.26 mmol) dropwise. After 10 minutes, warmed to room temperature and stirred for 1.5 hours. Chilled in ice-H2O bath and added 20 ml of H2O dropwise. Extracted three times with 2:1 EtOAc/toluene. The combined organics were washed with sodium thiosulfate, H2O and brine, dried (MgSO4) and the solvent removed in vacuo to crude red oil. Purified on Biotage Flash 40, eluting with 4:1 Hexanes/EtOAc to give 285 mg of a white solid (45%). 1H NMR (400 MHz, CDCl3) δ 1.31 (6H, s), 3.16 (3H, s), 3.80 (3H, s), 6.41 (1H, d, J=2.28 Hz), 6.53 (1H, m), 7.06 (1H, d, J=8.1 Hz). M/z (APCI+) 206.0 (M+1).

reactant | sodium hydride | 12.26 mmol, 490 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 6.25 ml | CN(C=O)C | C3H7NO
reactant | 6-Methoxy-1,3-dihydro-indol-2-one | 3.06 mmol, 500 mg | COC1=CC=C2CC(NC2=C1)=O | C9H9NO2
reactant | methyl iodide | 12.26 mmol, 763 μl | CI | CH3I
solvent | H2O | 20 ml | O | H2O
product | 6-Methoxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one | 285 mg, 45% | COC1=CC=C2C(C(N(C2=C1)C)=O)(C)C | C12H15NO2
